US07842696B2
DIPEA (130 mg, 0.17 mL, 1.0 mmol) was added to a stirred solution of 1-phenyl-1H-pyrazole-3-carboxylic acid (47 mg, 0.25 mmol) in DMF (5 mL). HOBT (37 mg, 0.27 mmol) and EDCI (120 mg, 0.62 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method as described above) (97 mg, 0.27 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 70% EtOAc in Hexane as eluent) to afford 37 mg (30.5% yield) of 1-phenyl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 96.28%. 1H NMR (CDCl3): δ 7.9 (d, 2H), 7.7 (d, 3H), 7.68-7.54 (m, 2H), 7.44 (t, 2H), 7.32 (d, 2H), 6.8 (d, 1H), 4.42-4.2 (m, 2H), 4.1-3.86 (m, 2H), 3.82-3.4 (m, 4H), 3.2 (s, 2H).

reactant | DIPEA | 1.0 mmol, 0.17 mL, 130 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-phenyl-1H-pyrazole-3-carboxylic acid | 0.25 mmol, 47 mg | C1(=CC=CC=C1)N1N=C(C=C1)C(=O)O | C10H8N2O2
reactant | HOBT | 0.27 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.62 mmol, 120 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 37 mg, 30.5% yield | O=C(CNC(=O)C1=NN(C=C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H22F3N5O3
